US08431596B2
((R)-2-Hydroxy-propyl)-carbamic acid tert-butyl ester
To a stirred solution of (R)-1-amino-propan-2-ol (0.2 g, 2.66 mmol) and triethylamine (385 L, 2.78 mmol) in dichloromethane (5 ml) at 0° C. was added di-tert-butyl dicarbonate (0.6 g, 2.78 mmol) and the reaction mixture was stirred for 1 hr at 0° C. under N2. Saturated aqueous sodium hydrogencarbonate was added and extracted twice with dichloromethane. The organics were combined, washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give the desired product. Yield 0.33 g, 70%. NMR 1H (300 MHz, CDCl3): 1.16 (d, 3H), 1.44 (s, 9H), 2.99 (m, 1H), 3.26 (m, 1H), 3.88 (m, 1H), 4.96 (brs, 1H)

reactant | (R)-1-amino-propan-2-ol | 2.66 mmol, 0.2 g | NC[C@@H](C)O | C3H9NO
reactant | triethylamine | 2.78 mmol, 385 L | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.78 mmol, 0.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | ((R)-2-Hydroxy-propyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC[C@@H](C)O)=O | C8H17NO3
